*****************************************************************
* SIEMENS                                                       *
* SPICE Library for CoolMOS   Version 1.1              02/99  	*
*                                                               *
* Models provided by SIEMENS are not warranted by SIEMENS    	*
* as fully representing all of the specifications and operating *  
* characteristics of the semiconductor product to which the    	*
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given 	*
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance  	*
* under all conditions, nor are they intended to replace bread- *     
* boarding for final verification. SIEMENS therefore does not 	*
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior 	*
* notice.                                                       *
*                                                               *
* This library contains models of the following SIEMENS   	*
* CoolMOS Transistors:                                          *
*                                                               *
* 190mOhm: 							*
*	SPP20N60S5 / SPB20N60S5 / SPA20N60S5 / SPW20N60S5   	*
* 600mOhm:							* 
*	SPP07N60S5 / SPB07N60S5 / SPA07N60S5 / SPD/U07N60S5	*
* 1.4 Ohm: 							*
*	SPP03N60S5 / SPB03N60S5 / SPA03N60S5 / SPD/U03N60S5	*
*                                                  		*
*****************************************************************
*
* CoolMOS models for PSPICE
***************************************
.SUBCKT SPP20N60S5 gate drain source
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 4.5
.PARAM  Weff = 1.59
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 1.2m
.PARAM  Rg = 6.35
.PARAM  alpha = 1
.PARAM  Rd0 = 123m
.PARAM  Uc = 11.44

.PARAM  Ls = 6n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 6n	Cds0 = 12n	Cgs = 1.4n
*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.07
.PARAM	k3 = 0.665
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.136
.PARAM 	k7 = 156
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=0.6M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_stat_2 / static part ***********
L_Lg         GATE lgrg  {Lg}  
L_Ls         SOURCE lsrs  {Ls}  
R_R_ERd_g         d ldrd1  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_g         di d  1E12  
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
R_R_EQJ_g         j d  1E12  
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
R_R_EDEP_k         dEDEP ox  0.01m  
R_R_ERd_k         dERd d  0.01m  
R_R_Ealpha_k         dalpha di  0.01m  
R_R_EQJ_k         dEQJ j  0.01m  
R_Rs         s lsrs  {Rs}  
D_D5         s ldrd DB_L1 
M_X1         di g s s NMOS_L3
C_Cds0         s j  {Cds0}  
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/Uc)**2)))*((TEMP+273)/300)**1.5 }
C_Cox         g ox  {Cox}  
R_Rg         lgrg g  {Rg}  
R_R_Cgs         s g  1E12  
C_Cgs         s g  {Cgs}  

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP20N60S5

***************************************************************
.SUBCKT SPP07N60S5 gate drain source
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 5.5
.PARAM  Weff = 0.485
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 423m
.PARAM  Uc = 10.41
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 1.864n	Cds0 = 3.69n	Cgs = 0.431n
*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.022
.PARAM	k3 = 0.205
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=1.95M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_stat_2 / static part ***********
L_Lg         GATE lgrg  {Lg}  
L_Ls         SOURCE lsrs  {Ls}  
R_R_ERd_g         d ldrd1  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_g         di d  1E12  
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
R_R_EQJ_g         j d  1E12  
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
R_R_EDEP_k         dEDEP ox  0.01m  
R_R_ERd_k         dERd d  0.01m  
R_R_Ealpha_k         dalpha di  0.01m  
R_R_EQJ_k         dEQJ j  0.01m  
R_Rs         s lsrs  {Rs}  
D_D5         s ldrd DB_L1 
M_X1         di g s s NMOS_L3
C_Cds0         s j  {Cds0}  
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/Uc)**2)))*((TEMP+273)/300)**1.5 }
C_Cox         g ox  {Cox}  
R_Rg         lgrg g  {Rg}  
R_R_Cgs         s g  1E12  
C_Cgs         s g  {Cgs}  

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP07N60S5

***************************************************************
.SUBCKT SPP03N60S5 gate drain source
******************
* Parameters 
* units cm, s, A, V

.PARAM  VTH = 5.7
.PARAM  Weff = 0.2
.PARAM  L = 2.0u

.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575

.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 906m
.PARAM  Uc = 10.87
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n

.PARAM  Isj = 1E-10
.PARAM  BV = 601

.PARAM  Cox = 0.808n	Cds0 = 1.6n	Cgs = 0.186n
*****************************************************
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 9.37m
.PARAM	k3 = 0.089
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*****************************************************

.MODEL DB_L1 D (IS={Isj},RS=4.5M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, W={Weff}, L={L}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})

**** netlist coolmos_stat_2 / static part ***********
L_Lg         GATE lgrg  {Lg}  
L_Ls         SOURCE lsrs  {Ls}  
R_R_ERd_g         d ldrd1  1E12  
L_Ld         DRAIN ldrd  {Ld}  
R_R_EDEP_g         ox d  1E12  
R_R_Ealpha_g         di d  1E12  
E_E_alpha         d dalpha VALUE { IF( (V(DRAIN)-V(SOURCE))>0,
+ {alpha}*(V(di)-V(s))**2,0) }
R_R_EQJ_g         j d  1E12  
V_Id_MESS         ldrd ldrd1 DC 0V AC 0V 
E_EQJ         d dEQJ VALUE { VQds(V(d,s),V(g,s)) }
E_EDEP         d dEDEP VALUE { Vdep(V(d,s),V(g,s)) }
R_R_EDEP_k         dEDEP ox  0.01m  
R_R_ERd_k         dERd d  0.01m  
R_R_Ealpha_k         dalpha di  0.01m  
R_R_EQJ_k         dEQJ j  0.01m  
R_Rs         s lsrs  {Rs}  
D_D5         s ldrd DB_L1 
M_X1         di g s s NMOS_L3
C_Cds0         s j  {Cds0}  
E_E_Rd         ldrd1 dERd VALUE { I(V_Id_MESS)*(
+ {Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/Uc)**2)))*((TEMP+273)/300)**1.5 }
C_Cox         g ox  {Cox}  
R_Rg         lgrg g  {Rg}  
R_R_Cgs         s g  1E12  
C_Cgs         s g  {Cgs}  

*************************************************
* dynamic functions
* depletion regions of pn-junctions
.FUNC	F1(X)	{0.5*(X-k9+SQRT((X+k9)*(X+k9)+delta*1E-3))}
.FUNC	F2(X)	{0.5*(F1(X)+k10-SQRT((F1(X)-k10)*(F1(X)-k10)+delta))}
.FUNC	F3(X)	{SQRT(2*k4*(k9+F2(X))/(1+k8))}
.FUNC	F4(X)	{SQRT(2*k4*(F1(X)-F2(X))+(k11+F3(X))*(k11+F3(X)))-k11}
* drain-gate charge
.FUNC	F5(X,Y) {Fg*0.5*(F2(X)-Y+SQRT((F2(X)-Y)*(F2(X)-Y)+delta))}
.FUNC	F6(X,Y) {0.5*(F1(X)-Y+SQRT((F1(X)-Y)*(F1(X)-Y)+delta))}
.FUNC	F7(X,Y) {SQRT(2*F5(X,Y)/k5+1)-1}
.FUNC	F8(X,Y) {SQRT(2*(F6(X,Y)-F5(X,Y))/k5+(1+k7)*(1+k7))-(1+k7)}	
.FUNC	Vdep(X,Y) {F6(X,Y)-k5*(F7(X,Y)+F8(X,Y))}
* drain-source charge
.FUNC	F9(X,Y) {2*(1+k12*(F1(X)-F2(X))/(Vp+F1(X)-F2(X))-F7(X,Y)/k7)}
.FUNC	VQds(X,Y) {F1(X)-k13*(F9(X,Y)*k3*F3(X)+k2*F4(X))/Cds0}
***************************************************************
.ENDS   SPP03N60S5
