*****************************************************************
* SIEMENS                                                       *
* IsSPICE Library for CoolMOS   Version 1.1is            12/98  *
*                                                               *
* Models provided by SIEMENS are not warranted by SIEMENS    	*
* as fully representing all of the specifications and operating *  
* characteristics of the semiconductor product to which the    	*
* model relates. The model describe the characteristics of a    *
* typical device.                                               *
* In all cases, the current data sheet information for a given 	*
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance  	*
* under all conditions, nor are they intended to replace bread- *     
* boarding for final verification. SIEMENS therefore does not 	*
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior 	*
* notice.                                                       *
*                                                               *
* This library contains models of the following SIEMENS   	*
* CoolMOS Transistors:                                          *
*                                                               *
* SPPX1N60S5 (600V, 190mOhm) 					*
* SPPX3N60S5 (600V, 600mOhm)					* 
* SPPX4N60S5 (600V, 1.4Ohm)					*	
*                          					*
*                                                  		*
*****************************************************************
*
* CoolMOS models for ICAPS 4 tested on evaluation version
*****************************************************************
* 600V, 190mOhm  device
*****************************************************************
.SUBCKT SPPX1N60S5 GATE DRAIN SOURCE
*
* Parameters 
* units cm, s, A, V
.PARAM  VTH = 4.5
.PARAM  Weff = 1.59
.PARAM  L = 2.0u
.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575
.PARAM  Rs = 1.2m
.PARAM  Rg = 6.35
.PARAM  alpha = 1
.PARAM  Rd0 = 123m
.PARAM  Uc = 11.44
.PARAM  Ls = 6n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n
.PARAM  Isj = 1E-10
.PARAM  BV = 601
.PARAM  Cox = 6n	
.PARAM  Cds0 = 12n	
.PARAM  Cgs = 1.4n
*
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.07
.PARAM	k3 = 0.665
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.136
.PARAM 	k7 = 156
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*
.MODEL DB_L1 D (IS={Isj},RS=0.6M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})
* netlist coolmos_stat_2 / static part
L_Lg		GATE	lgrg	{Lg}  
R_Rg		lgrg	g	{Rg}  
R_R_Cgs		g	s	1E12  
C_Cgs		g	s	{Cgs}  
C_Cox		g	ox	{Cox}  
L_Ls		SOURCE	lsrs	{Ls}  
R_Rs		lsrs	s	{Rs}   
C_Cds0		j	s	{Cds0}  
D_D5		s	ldrd	DB_L1
L_Ld		DRAIN	ldrd	{Ld}  
V_Id_MESS	ldrd	ldrd1	DC	0	AC	0
b_E_E_Rd	ldrd1	dERd	v = I(V_Id_MESS)*({Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/{Uc})*((V(ldrd)-V(d))/{Uc}))))*sqrt(((TEMP+273)/300)*((TEMP+273)/300)*((TEMP+273)/300))
R_R_ERd_k	dERd	d	0.01m  
R_R_ERd_g	d	ldrd1	1meg
b_E_EQJ		d	dEQJ	v = v(x11)
b_E_EDEP	d	dEDEP	v = v(x9) 
b_E_E_alpha	d	dalpha	v= ( (V(DRAIN)-V(SOURCE)) > 0  ? {alpha}*(V(di)-V(s))*(V(di)-V(s))  : 0) 
R_R_EQJ_k	dEQJ	j	0.01m  
R_R_EDEP_k	dEDEP	ox	0.01m
R_R_Ealpha_k	dalpha	di	0.01m  
R_R_EQJ_g	j	d	1meg 
R_R_EDEP_g	ox	d	1meg 
R_R_Ealpha_g	di	d	1meg 
M_X1		di	g	s	s	NMOS_L3 W={Weff} L={L} OFF

*
* dynamic functions
* depletion regions of pn-junctions
b_F1	x1	0	v=	0.5*(V(d,s)-{k9}+SQRT((V(d,s)+{k9})*(V(d,s)+{k9})+{delta}*1E-3))

Rx1	x1	0	1meg
b_F2	x2	0	v=	0.5*(v(x1)+{k10}-SQRT((v(x1)-{k10})*(v(x1)-{k10})+{delta}))

Rx2	x2	0	1meg
b_F3	x3	0	v=	SQRT(2*{k4}*({k9}+v(x2))/(1+{k8}))
Rx3	x3	0	1meg
b_F4	x4	0	v=	SQRT(2*{k4}*(v(x1)-v(x2))+({k11}+v(x3))*({k11}+v(x3)))-{k11}
Rx4	x4	0	1meg
* drain-gate charge
b_F5	x5	0	v=	{Fg}*0.5*(v(x2)-V(g,s)+SQRT((v(x2)-V(g,s))*(v(x2)-V(g,s))+{delta}))
Rx5	x5	0	1meg
b_F6	x6	0	v=	0.5*(v(x1)-V(g,s)+SQRT((v(x1)-V(g,s))*(v(x1)-V(g,s))+{delta}))
Rx6	x6	0	1meg
b_F7	x7	0	v=	SQRT(2*v(x5)/{k5}+1)-1
Rx7	x7	0	1meg
b_F8	x8	0	v=	SQRT(2*(v(x6)-v(x5))/{k5}+(1+{k7})*(1+{k7}))-(1+{k7})
Rx8	x8	0	1meg
b_Vdep	x9	0	v=	v(x6)-{k5}*(v(x7)+v(x8))
Rx9	x9	0	1meg
* drain-source charge
b_F9	x10	0	v=	2*(1+{k12}*(v(x1)-v(x2))/({Vp}+v(x1)-v(x2))-v(x7)/{k7})
Rx10	x10	0	1meg
b_VQds	x11	0	v=	v(x1)-{k13}*(v(x10)*{k3}*v(x3)+{k2}*v(x4))/{Cds0}
Rx11	x11	0	1meg
*
.OPTIONS METHOD=GEAR MAXORD=6 RELTOL=.01m
.ends SPPX1N60S5
*****************************************************************
* 600V, 600mOhm device
*****************************************************************
.SUBCKT SPPX3N60S5 GATE DRAIN SOURCE
*
* Parameters 
* units cm, s, A, V
.PARAM  VTH = 5.5
.PARAM  Weff = 0.485
.PARAM  L = 2.0u
.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575
.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 423m
.PARAM  Uc = 10.41
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n
.PARAM  Isj = 1E-10
.PARAM  BV = 601
.PARAM  Cox = 1.864n	
.PARAM  Cds0 = 3.69n
.PARAM	Cgs = 0.431n
*
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 0.022
.PARAM	k3 = 0.205
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*
.MODEL DB_L1 D (IS={Isj},RS=0.6M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})
* netlist coolmos_stat_2 / static part
L_Lg		GATE	lgrg	{Lg}  
R_Rg		lgrg	g	{Rg}  
R_R_Cgs		g	s	1E12  
C_Cgs		g	s	{Cgs}  
C_Cox		g	ox	{Cox}  
L_Ls		SOURCE	lsrs	{Ls}  
R_Rs		lsrs	s	{Rs}   
C_Cds0		j	s	{Cds0}  
D_D5		s	ldrd	DB_L1 
L_Ld		DRAIN	ldrd	{Ld}  
V_Id_MESS	ldrd	ldrd1	DC	0	AC	0
b_E_E_Rd	ldrd1	dERd	v = I(V_Id_MESS)*({Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/{Uc})*((V(ldrd)-V(d))/{Uc}))))*sqrt(((TEMP+273)/300)*((TEMP+273)/300)*((TEMP+273)/300))
R_R_ERd_k	dERd	d	0.01m  
R_R_ERd_g	d	ldrd1	1meg
b_E_EQJ		d	dEQJ	v = v(x11)
b_E_EDEP	d	dEDEP	v = v(x9) 
b_E_E_alpha	d	dalpha	v= ( (V(DRAIN)-V(SOURCE)) > 0  ? {alpha}*(V(di)-V(s))*(V(di)-V(s))  : 0) 
R_R_EQJ_k	dEQJ	j	0.01m  
R_R_EDEP_k	dEDEP	ox	0.01m
R_R_Ealpha_k	dalpha	di	0.01m  
R_R_EQJ_g	j	d	1meg 
R_R_EDEP_g	ox	d	1meg 
R_R_Ealpha_g	di	d	1meg 
M_X1		di	g	s	s	NMOS_L3 W={Weff} L={L} OFF
*
* dynamic functions
* depletion regions of pn-junctions
b_F1	x1	0	v=	0.5*(V(d,s)-{k9}+SQRT((V(d,s)+{k9})*(V(d,s)+{k9})+{delta}*1E-3))

Rx1	x1	0	1meg
b_F2	x2	0	v=	0.5*(v(x1)+{k10}-SQRT((v(x1)-{k10})*(v(x1)-{k10})+{delta}))

Rx2	x2	0	1meg
b_F3	x3	0	v=	SQRT(2*{k4}*({k9}+v(x2))/(1+{k8}))
Rx3	x3	0	1meg
b_F4	x4	0	v=	SQRT(2*{k4}*(v(x1)-v(x2))+({k11}+v(x3))*({k11}+v(x3)))-{k11}
Rx4	x4	0	1meg
* drain-gate charge
b_F5	x5	0	v=	{Fg}*0.5*(v(x2)-V(g,s)+SQRT((v(x2)-V(g,s))*(v(x2)-V(g,s))+{delta}))
Rx5	x5	0	1meg
b_F6	x6	0	v=	0.5*(v(x1)-V(g,s)+SQRT((v(x1)-V(g,s))*(v(x1)-V(g,s))+{delta}))
Rx6	x6	0	1meg
b_F7	x7	0	v=	SQRT(2*v(x5)/{k5}+1)-1
Rx7	x7	0	1meg
b_F8	x8	0	v=	SQRT(2*(v(x6)-v(x5))/{k5}+(1+{k7})*(1+{k7}))-(1+{k7})
Rx8	x8	0	1meg
b_Vdep	x9	0	v=	v(x6)-{k5}*(v(x7)+v(x8))
Rx9	x9	0	1meg
* drain-source charge
b_F9	x10	0	v=	2*(1+{k12}*(v(x1)-v(x2))/({Vp}+v(x1)-v(x2))-v(x7)/{k7})
Rx10	x10	0	1meg
b_VQds	x11	0	v=	v(x1)-{k13}*(v(x10)*{k3}*v(x3)+{k2}*v(x4))/{Cds0}
Rx11	x11	0	1meg
*
.OPTIONS METHOD=GEAR MAXORD=6 RELTOL=.01m
.ends SPPX3N60S5
*****************************************************************
* 600V, 1.4Ohm device
*****************************************************************
.SUBCKT SPPX4N60S5 GATE DRAIN SOURCE
*
* Parameters 
* units cm, s, A, V
.PARAM  VTH = 5.7
.PARAM  Weff = 0.2
.PARAM  L = 2.0u
.PARAM  nsub = 2.0E17
.PARAM  tox = 80E-9
.PARAM  vmax = 1.25E5
.PARAM  uo = 575
.PARAM  Rs = 2.5m
.PARAM  Rg = 10.2
.PARAM  alpha = 1
.PARAM  Rd0 = 906m
.PARAM  Uc = 10.87
.PARAM  Ls = 7n 
.PARAM  Lg = 9n
.PARAM  Ld = 4n
.PARAM  Isj = 1E-10
.PARAM  BV = 601
.PARAM  Cox = 0.808n
.PARAM	Cds0 = 1.6n
.PARAM	Cgs = 0.186n
*
.PARAM  Vp = 100	
.PARAM  Fg = 0.85
.PARAM	delta = 1 
.PARAM	k2 = 9.37m
.PARAM	k3 = 0.089
.PARAM	k4 = 4.351n
.PARAM	k5 = 0.135
.PARAM 	k7 = 157
.PARAM	k8 = 0.625
.PARAM	k9 = 0.276
.PARAM	k10 = 29.6
.PARAM	k11 = 3.8m
.PARAM	k12 = 0.2
.PARAM	k13 = 240u
*
.MODEL DB_L1 D (IS={Isj},RS=0.6M,TT=375N,BV={BV},N=1.25,CJO=0,VJ=0.464) 
.MODEL NMOS_L3 NMOS (LEVEL=3, VTO={VTH}, nsub={nsub},tox={tox}, vmax={vmax}, uo={uo})
* netlist coolmos_stat_2 / static part
L_Lg		GATE	lgrg	{Lg}  
R_Rg		lgrg	g	{Rg}  
R_R_Cgs		g	s	1E12  
C_Cgs		g	s	{Cgs}  
C_Cox		g	ox	{Cox}  
L_Ls		SOURCE	lsrs	{Ls}  
R_Rs		lsrs	s	{Rs}   
C_Cds0		j	s	{Cds0}  
D_D5		s	ldrd	DB_L1 
L_Ld		DRAIN	ldrd	{Ld}  
V_Id_MESS	ldrd	ldrd1	DC	0	AC	0
b_E_E_Rd	ldrd1	dERd	v = I(V_Id_MESS)*({Rd0}*0.5*(1+SQRT(1+4*((V(ldrd)-V(d))/{Uc})*((V(ldrd)-V(d))/{Uc}))))*sqrt(((TEMP+273)/300)*((TEMP+273)/300)*((TEMP+273)/300))
R_R_ERd_k	dERd	d	0.01m  
R_R_ERd_g	d	ldrd1	1meg
b_E_EQJ		d	dEQJ	v = v(x11)
b_E_EDEP	d	dEDEP	v = v(x9) 
b_E_E_alpha	d	dalpha	v= ( (V(DRAIN)-V(SOURCE)) > 0  ? {alpha}*(V(di)-V(s))*(V(di)-V(s))  : 0) 
R_R_EQJ_k	dEQJ	j	0.01m  
R_R_EDEP_k	dEDEP	ox	0.01m
R_R_Ealpha_k	dalpha	di	0.01m  
R_R_EQJ_g	j	d	1meg 
R_R_EDEP_g	ox	d	1meg 
R_R_Ealpha_g	di	d	1meg 
M_X1		di	g	s	s	NMOS_L3 W={Weff} L={L} OFF
*
* dynamic functions
* depletion regions of pn-junctions
b_F1	x1	0	v=	0.5*(V(d,s)-{k9}+SQRT((V(d,s)+{k9})*(V(d,s)+{k9})+{delta}*1E-3))

Rx1	x1	0	1meg
b_F2	x2	0	v=	0.5*(v(x1)+{k10}-SQRT((v(x1)-{k10})*(v(x1)-{k10})+{delta}))

Rx2	x2	0	1meg
b_F3	x3	0	v=	SQRT(2*{k4}*({k9}+v(x2))/(1+{k8}))
Rx3	x3	0	1meg
b_F4	x4	0	v=	SQRT(2*{k4}*(v(x1)-v(x2))+({k11}+v(x3))*({k11}+v(x3)))-{k11}
Rx4	x4	0	1meg
* drain-gate charge
b_F5	x5	0	v=	{Fg}*0.5*(v(x2)-V(g,s)+SQRT((v(x2)-V(g,s))*(v(x2)-V(g,s))+{delta}))
Rx5	x5	0	1meg
b_F6	x6	0	v=	0.5*(v(x1)-V(g,s)+SQRT((v(x1)-V(g,s))*(v(x1)-V(g,s))+{delta}))
Rx6	x6	0	1meg
b_F7	x7	0	v=	SQRT(2*v(x5)/{k5}+1)-1
Rx7	x7	0	1meg
b_F8	x8	0	v=	SQRT(2*(v(x6)-v(x5))/{k5}+(1+{k7})*(1+{k7}))-(1+{k7})
Rx8	x8	0	1meg
b_Vdep	x9	0	v=	v(x6)-{k5}*(v(x7)+v(x8))
Rx9	x9	0	1meg
* drain-source charge
b_F9	x10	0	v=	2*(1+{k12}*(v(x1)-v(x2))/({Vp}+v(x1)-v(x2))-v(x7)/{k7})
Rx10	x10	0	1meg
b_VQds	x11	0	v=	v(x1)-{k13}*(v(x10)*{k3}*v(x3)+{k2}*v(x4))/{Cds0}
Rx11	x11	0	1meg
*
.OPTIONS METHOD=GEAR MAXORD=6 RELTOL=.001m
.ends SPPX4N60S5
*****************************************************************
