
.SUBCKT huf76443  2 1 3      
*Nom Temp=25 deg C    tA76443     
*26Aug99   

Ca 12 8 5.50e-9
Cb 15 14 5.50e-9
Cin 6 8 3.90e-9

Dbody 7 5 DbodyMOD
Dbreak 5 11 DbreakMOD
Dplcap 10 5 DplcapMOD



Ebreak 11 7 17 18 66.05
Eds 14 8 5 8 1
Egs 13 8 6 8 1
Esg 6 10 6 8 1
Evthres 6 21 19 8 1
Evtemp 20 6 18 22 1

It 8 17 1

Lgate 1 9 4.92e-9
Ldrain 2 5 1.0e-9
Lsource 3 7 2.39e-9

RLgate 1 9 49.2
RLdrain 2 5 10
RLsource 3 7 23.9

Mmed 16 6 8 8 MmedMOD
Mstro 16 6 8 8 MstroMOD 
Mweak 16 21 8 8 MweakMOD    


Rbreak 17 18 RbreakMOD 1
Rdrain 50 16 RdrainMOD 2.80e-3
Rgate 9 20 0.84
RSLC1 5 51 RSLCMOD 1e-6
RSLC2 5 50 1e3
Rsource 8 7 RsourceMOD 3.20e-3
Rvthres 22 8 RvthresMOD 1
Rvtemp 18 19 RvtempMOD 1
S1a 6 12 13 8 S1AMOD
S1b 13 12 13 8 S1BMOD
S2a 6 15 14 13 S2AMOD
S2b 13 15 14 13 S2BMOD

Vbat 22 19 DC 1

ESLC 51 50  VALUE={(V(5,51)/ABS(V(5,51)))*(PWR(V(5,51)/(1e-6*475),3))}

.MODEL DbodyMOD D (IS=3.16e-12 RS=2.54e-3 TRS1=2.21e-3 TRS2=0
+ CJO=4.95e-9 TT=6.81e-8 M=0.50)
.MODEL DbreakMOD D (RS=1.41e-1 TRS1=1.09e-4 TRS2=0)
.MODEL DplcapMOD D (CJO=3.47e-9 IS=1e-30  M=0.85)


.MODEL MmedMOD NMOS (VTO=1.90 KP=5 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=0.84)
.MODEL MstroMOD NMOS (VTO=2.31 KP=195 IS=1e-30 N=10 TOX=1 L=1u W=1u)
.MODEL MweakMOD NMOS (VTO=1.68 kp=0.12 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=8.4 RS=.1) 

.MODEL RbreakMOD RES (TC1=1.14e-3 TC2=0)
.MODEL RdrainMOD RES (TC1=9.91e-3 TC2=2.75e-5)
.MODEL RSLCMOD RES (TC1=1.01e-3 TC2=3.23e-5)
.MODEL RsourceMOD RES (TC1=1.00e-3 TC2=0)
.MODEL RvthresMOD RES (TC1=-2.59e-3 TC2=-8.95e-6)
.MODEL RvtempMOD RES (TC1=-1.56e-3 TC2=0)

.MODEL S1AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-5.00 VOFF=-3.00)
.MODEL S1BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-3.00 VOFF=-5.00)
.MODEL S2AMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=-0.50 VOFF=0.0)
.MODEL S2BMOD VSWITCH (RON=1e-5 ROFF=0.1 VON=0.0 VOFF=-0.50)

.ENDS


*Thermal Model Subcircuit
.SUBCKT huf76443t TH TL
*25Aug99

CTHERM1 TH c2 5.50e-3	   
CTHERM2 c2 c3 2.50e-2
CTHERM3 c3 c4 1.75E-2
CTHERM4 c4 c5 1.00E-2
CTHERM5 c5 c6 4.85E-2
CTHERM6 c6 TL 12.55

RTHERM1 TH c2 3.89E-3
RTHERM2 c2 c3 9.69e-3
RTHERM3 c3 c4 2.73e-2
RTHERM4 c4 c5 1.53e-1
RTHERM5 c5 c6 2.31e-1
RTHERM6 c6 TL 3.07e-2
.ENDS


